US08008298B2
(1-Methyl-cycloheptyl)-[2-(3-pyrrolidin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cycloheptyl)-methanone and 3-(1-pyrrolidinyl)phenylboronic acid following general procedures as described in these Examples. MP 192-193° C., M+H=403.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cycloheptyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCCC2)C | C15H18BrN3O
reactant | 3-(1-pyrrolidinyl)phenylboronic acid | N1(CCCC1)C=1C=C(C=CC1)B(O)O | C10H14BNO2
product | (1-Methyl-cycloheptyl)-[2-(3-pyrrolidin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CCCC2 | C25H30N4O
